US08623889B2
Step 4: (1S,2S)-2-fluoro-N-(7-(5-fluoro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of 7-(5-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine (161.4 mg; 0.6372 mmol), (1S,2S)-2-fluorocyclopropanecarboxylic acid (80.3 mg; 0.772 mmol), (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (496.9 mg; 0.9149 mmol), N,N-diisopropylethylamine (0.30 mL; 1.7 mmol), 4-(dimethylamino)pyridine (0.06372 mmol) and N,N-dimethylformamide (5 mL; 64.4 mmol) was heated at 40° C. for 16 hours. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (25 g silica, solvent gradient: 30-90% ethyl acetate in dichloromethane) followed by preparatory reverse-phase HPLC to yield 124 mg (57%) of the title compound. LCMS (ESI): RT (min)=8.33, M+H=340.2, method=G; 1H NMR (400 MHz, DMSO) δ 10.99 (s, 1H), 9.21 (s, 1H), 8.55 (d, J=4.5 Hz, 2H), 8.42 (s, 1H), 8.13 (s, 1H), 8.01 (d, J=8.6 Hz, 1H), 7.78 (dd, J=8.5, 1.6 Hz, 1H), 5.06-4.85 (m, 1H), 2.34-2.27 (m, 1H), 2.26 (d, J=1.9 Hz, 3H), 1.75-1.65 (m, 1H), 1.25-1.16 (m, 1H).

reactant | 7-(5-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine | 0.6372 mmol, 161.4 mg | FC=1C(=C(C=NC1)C1=CC=C2C=C(N=CC2=C1)N)C | C15H12FN3
reactant | (1S,2S)-2-fluorocyclopropanecarboxylic acid | 0.772 mmol, 80.3 mg | F[C@@H]1[C@@H](C1)C(=O)O | C4H5FO2
reactant | (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.9149 mmol, 496.9 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-diisopropylethylamine | 1.7 mmol, 0.30 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 64.4 mmol, 5 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 0.06372 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S,2S)-2-fluoro-N-(7-(5-fluoro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 124 mg, 57% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=NC=C(C1C)F | C19H15F2N3O
